US06670512B2
To a solution of bis(2,6-dimethoxyphenyl)methanol (1.52 g, 0.005 mol) in acetonitrile (50 mL) at room temperature was added p-toluenesulfonic acid monohydrate (0.95 g, 0.005 mol). To the resulting deep red solution was added bis(2,6-dimethoxyphenyl)methane (1.44 g, 0.005 mol). The reaction mixture decolored within about one hour and was stirred for an additional 17 hours. The reaction was quenched by the addition of water (10 mL), extracted with dichloromethane and dried over anhydrous magnesium sulfate. Evaporation of the solvent and hot filtration using hexane/benzene gave 1,1,2,2-tetrakis(2′,6′-dimethoxyphenyl)ethane as a mixture of rotational isomers after evaporation of the solvents and washing with diethyl ether.

reactant | bis(2,6-dimethoxyphenyl)methanol | 0.005 mol, 1.52 g | COC1=C(C(=CC=C1)OC)C(O)C1=C(C=CC=C1OC)OC | C17H20O5
reactant | p-toluenesulfonic acid monohydrate | 0.005 mol, 0.95 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | bis(2,6-dimethoxyphenyl)methane | 0.005 mol, 1.44 g | COC1=C(C(=CC=C1)OC)CC1=C(C=CC=C1OC)OC | C17H20O4
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 1,1,2,2-tetrakis(2′,6′-dimethoxyphenyl)ethane | COC1=C(C(=CC=C1)OC)C(C(C1=C(C=CC=C1OC)OC)C1=C(C=CC=C1OC)OC)C1=C(C=CC=C1OC)OC | C34H38O8
